US05478842
Using an analogous procedure to that described in Example 6, 6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one was reacted with (2SR,4RS)-2-ethyl-4-hydroxy-4-(3-iodophenyl)tetrahydropyran to give (2SR,4RS)-2-ethyl-4-hydroxy-4-[3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]tetrahydropyran in 63% yield as a gum;

reactant | 6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | SC=1C=C2CCC(N(C2=CC1)C)=O | C10H11NOS
reactant | (2SR,4RS)-2-ethyl-4-hydroxy-4-(3-iodophenyl)tetrahydropyran | C(C)C1OCCC(C1)(C1=CC(=CC=C1)I)O | C13H17IO2
product | (2SR,4RS)-2-ethyl-4-hydroxy-4-[3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]tetrahydropyran | 63% yield | C(C)C1OCCC(C1)(C1=CC(=CC=C1)SC=1C=C2CCC(N(C2=CC1)C)=O)O | C23H27NO3S
